US06642386B2
To a solution of 75.5 g 5-ethoxy-2-fluoro-phenol described in example 1.1 in 250 ml DMA were added 80.2 g t-butyl dimethylchlorsilane and 36.2 g imidazole at 0° C. The reaction mixture was warmed to r.t. After 4 hrs, 400 ml water were added. The mixture was extracted with hexane. The organic layer was washed with water, 10% Na2CO3 solution, water and brine, dried over MgSO4, filtrated and concentrated to give 127.0 g tert-butyl-(5-ethoxy-2-fluoro-phenoxy)-dimethyl-silane as light brown liquid which was used in the next step without further purification.

reactant | 5-ethoxy-2-fluoro-phenol | 75.5 g | C(C)OC=1C=CC(=C(C1)O)F | C8H9FO2
reactant | t-butyl dimethylchlorsilane | 80.2 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 36.2 g | N1C=NC=C1 | C3H4N2
reactant | water | 400 ml | O | H2O
solvent | DMA | 250 ml | CC(=O)N(C)C | C4H9NO
product | tert-butyl-(5-ethoxy-2-fluoro-phenoxy)-dimethyl-silane | 127.0 g | C(C)(C)(C)[Si](C)(C)OC1=C(C=CC(=C1)OCC)F | C14H23FO2Si
